US04816452
a. (2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-carboxylic acid
(2S,4R)-(-)-4-Hydroxy-2-pyrrolidinecarboxylic acid [trans-4-hydroxy-L-proline](5.24 g, 40 mmol) in water (40 ml) was treated with 1M aqueous sodium hydroxide (40 ml), cooled in an ice-bath and then treated with 4-nitrobenzylchloroformate (8.64 g, 40 mmol) in 1,4-dioxane (40 ml), added dropwise over 20 min. The mixture was stirred at 0° C. for 3 h. Most of the 1,4-dioxane was removed by evaporation under reduced pressure and ethyl acetate (100 ml) and water (100 ml) were added. The mixture was acidified and the aqueous layer extracted a further two times with ethyl acetate (100 ml). The ethyl acetate layer was dried (MgSO4) and evaporated under reduced pressure to leave an oil which crystallised after trituration under diethyl ether. The crystals were filtered off to give the title compound (8.69 g, 70%) as a mixture of conformers/rotamers, m.p. 136°-137° C. (EtOAc/hexane) (Found: C, 50.30; H, 4.43; N, 8.82 C13H14N2O7 requires C, 50.32; H, 4.55; N, 9.03%); [α]D -38° (c 1 in EtOH); νmax (KBr) 3319, 1737, 1663, 1607, 1518, 1456, and 1342 cm-1 ; δH (250 MHz, (CD3)2CO) 2.20-2.25 (1H, m), 2.25-2.50 (1H, m), 3.50-3.72 (2H, m), 4.4-4.6 (2H, m), 5.18 (d, J 14.2 Hz), 5.29 (s), 5.33 (d, J 14.2 Hz) (together 2H, OCH2Ar, 2 conformers ), 7.66 (2H, m), and 8.23 (2H, m); [Mass spectrum M+ (310)].

reactant | (2S,4R)-(-)-4-Hydroxy-2-pyrrolidinecarboxylic acid | 40 mmol, 5.24 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | sodium hydroxide | 1M, 40 ml | [OH-].[Na+]
reactant | 4-nitrobenzylchloroformate | 40 mmol, 8.64 g | C1=CC(=CC=C1C[Cl-]C(=O)[O-])[N+](=O)[O-]
reactant | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | (2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-carboxylic acid | 8.69 g, 70% | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H14N2O7
